US04681952
2.08 g (0.01 mol) of 2,2-dimethyl-3-(4-chlorophenyl)cyclobutanone are dissolved in 30 ml of chloroform, and a solution of 1.6 g of bromine in 5 ml of chloroform is added dropwise. After stirring for one hour at 20° C., the solvent is distilled off under waterpump vacuum. 2.6 g of crude 2,2-dimethyl-3-(4-chlorophenyl)-4-bromocyclobutanone are obtained as a residue which is employed further without further purification (compare: Example 1).

reactant | 2,2-dimethyl-3-(4-chlorophenyl)cyclobutanone | 0.01 mol, 2.08 g | CC1(C(CC1C1=CC=C(C=C1)Cl)=O)C | C12H13ClO
reactant | bromine | 1.6 g | BrBr | Br2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,2-dimethyl-3-(4-chlorophenyl)-4-bromocyclobutanone | 2.6 g | CC1(C(C(C1C1=CC=C(C=C1)Cl)Br)=O)C | C12H12BrClO
